US04959361
2-[3-[6-(2-Fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-8-yl]-2-propynyl]-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one
This compound was obtained as described in example 17 by coupling of 6-(2-fluorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine with 2-(2-propynyl)-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one. The product was purified by chromatography in the usual fashion and crystallized from ethyl acetate/ethanol. Recrystallization from ethanol gave light yellow crystals with m.p. 170°-173° C. They contained 0.66 molar amounts of water. The synthesis of the required acetylene is described in Example 27.

reactant | 6-(2-fluorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12FIN4
reactant | 2-(2-propynyl)-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one | C(C#C)N1N=C2N(C=CC=C2)C1=O | C9H7N3O
reactant | acetylene | C#C | C2H2
solvent | water | O | H2O
product | 2-[3-[6-(2-Fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-8-yl]-2-propynyl]-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CCN3N=C1N(C=CC=C1)C3=O)C(=NN2)C | C26H18FN7O
